US08865726B2
A mixture of (S)-4-ethyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.024 g, 0.047 mmol) in DCM (1 mL) was treated with trifluoroacetic acid (0.4 mL) at ambient temperature. The mixture was stirred for 18 hours. The solvent was concentrated and the residue partitioned between EtOAc and aqueous satd. NaHCO3. The aqueous layer was further extracted with EtOAc. The combined organic extracts were washed with brine, dried (phase separator silicone treated filter paper), concentrated and purified on silica gel (1-5% 7N ammonia in MeOH/dichloromethane) to give (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-ethyloxazolidin-2-one (0.008 g, 45%) as a beige solid. MS (APCI+) m/z 376 [M+H]+.

reactant | (S)-4-ethyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.047 mmol, 0.024 g | C(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C | C25H31N7O3Si
reactant | trifluoroacetic acid | 0.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-ethyloxazolidin-2-one | 0.008 g, 45% | N1N=C(N=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2CC)=O | C19H17N7O2
